US03932503
2.9 g of N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)- benzene-sulfonyl]-N'-(4.4-dimethylcyclohexyl)-thiourea (prepared by reaction of 4-[β-<2-methoxy-5-chlorobenzamido>-ethyl]-benzenesulfonamide with cyclohexyl mustard oil in dioxane/acetone in the presence of potassium carbonate) melting point 175°-177°C and decomposition, are dissolved in 250 ml acetone. An aqueous solution of 0.7 g sodium nitrite is added and while stirring is continued at 5°C, 15 ml of 5N acetic acid are added dropwise. After stirring for 21/2 hours acetone is distilled off. The residue is dissolved in dilute sodium hydroxide solution, the solution is clarified with charcoal and acidified. There is obtained a crystalline precipitate of N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-N'-(4.4-dimethylcyclohexyl)-urea, which is filtered off with suction and recrystallized from dilute methanol. The substance melts at 174°-176°C. 2. (a) 5.38 g of N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)benzene-sulfonyl]-N'-(4.4-dimethylcyclohexyl)-thiourea are dissolved in 5 ml dioxane and 250 ml methanol. Then 2.16 g of mercury peroxide are added and stirring is continued for 4 hours at 60°C. The mercury sulfide formed is filtered off, and the filtrate is half concentrated and water is added. After abandoning during the night a crystalline precipitate has formed, which is filtered off with suction and recrystallized from dilute methanol. The N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-N'-(4.4-dimethylcyclohexyl)-isoureamethylether thus obtained melts at 149°-151°C.

reactant | N'-(4.4-dimethylcyclohexyl)-thiourea | CC1(CCC(CC1)NC(N)=S)C | C9H18N2S
reactant | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium nitrite | 0.7 g | N(=O)[O-].[Na+]
solvent | dioxane acetone | O1CCOCC1.CC(=O)C
solvent | acetone | 250 ml | CC(=O)C | C3H6O
solvent | acetic acid | 5N, 15 ml | C(C)(=O)O | C2H4O2
product | N'-(4.4-dimethylcyclohexyl)-urea | CC1(CCC(CC1)NC(N)=O)C | C9H18N2O
